data/core_train_final.csv
"[H:4][C:3]1[C:2](=[O:1])[CH2:19][C:11]2([CH2:16][C:17](=[CH2:18])[C:5]1([CH2:10]2)[O:6][C:7](=[O:9])[CH3:8])[C:12](=[O:15])[O:13][CH3:14].[H:29][Sn:24]([CH2:23][CH2:22][CH2:21][CH3:20])([CH2:25][CH2:26][CH2:27][CH3:28])[CH2:30][CH2:31][CH2:32][CH3:33]>>[H:4][C:3]1([C:2](=[O:1])[CH2:19][C:11]2([CH2:16][C:17](=[CH2:18])[C:5]1([CH2:10]2)[O:6][C:7](=[O:9])[CH3:8])[C:12](=[O:15])[O:13][CH3:14])[H:29].[CH3:20][CH2:21][CH2:22][CH2:23][Sn:24]([CH2:25][CH2:26][CH2:27][CH3:28])[CH2:30][CH2:31][CH2:32][CH3:33] 3-3,29; 29,24-3,29; 29,24-24",Room Temperature,Propagation,abstraction
"O=C([O:10])C1=CC=CC=C1.CN([CH2:21][H:20])C2=CC=CC=C2>>O=C([O:10][H:20])C3=CC=CC=C3.CN([CH2:21])C4=CC=CC=C4 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][S:21]CC.CCSC1CCC[CH:10]1>>[H:20][CH:10]1CCCC1SCC.CC[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C1=CC=CC=C1)OC(C)(C)C.CC(C)(C)OC(C1=CC=CC=C1)O[O:10]>>[H:20][O:10]OC(C1=CC=CC=C1)OC(C)(C)C.CC(C)(C)O[CH:21]C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"OC[CH:10]Cl.[CH2:20]=[CH:21]Cl>>OC[CH:10]([CH2:20][CH:21]Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC[C:20](C)C.[Cl:10][Cl:11]>>CC[C:20](C)(C)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"CC1=CC=CC=C1.[Cl:20][Cl:21].[He]>>[He].CC1=CC=CC=C1.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CCCC[CH:10]CC.[Cl:20][Cl:21]>>CCCC[CH:10](CC)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:14][C:13]1[CH:12]=[C:9]([CH:8]=[C:3]([C:2]1=[O:1])[C:4]([CH3:5])([CH3:6])[CH3:7])[O:10][CH3:11]>>[H:14][C:13]1=[CH:12][C:9](=[CH:8][C:3](=[C:2]1[O:1])[C:4]([CH3:5])([CH3:6])[CH3:7])[O:10][CH3:11] 13-2,13; 1,2-2,13; 1,2-1",Room Temperature,Propagation,resonance
"CC(C)(CC(CC(C[CH:10]N1CCCC1=O)N2CCCC2=O)N3CCCC3=O)C#N.[OH:20]>>CC(C)(CC(CC(C[CH:10](N1CCCC1=O)[OH:20])N2CCCC2=O)N3CCCC3=O)C#N 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCCCCCCCSCC(C[CH:10]C(=O)OC)C(=O)OC.COC(=O)[CH:21]=[CH2:20]>>CCCCCCCCCCCCSCC(C[CH:10]([CH2:20][CH:21]C(=O)OC)C(=O)OC)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(CC(CC(C[CH:10]Cl)Cl)Cl)C#N.[CH2:20]=[CH:21]Cl>>CC(C)(CC(CC(C[CH:10]([CH2:20][CH:21]Cl)Cl)Cl)Cl)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]([H:3])([H:4])[H:5].[Br:6].[Ar]>>[Ar].[H:3][C:2]([H:4])[H:1].[H:5][Br:6] 6-6,5;2,5-6,5;2,5-2",Heat,Propagation,abstraction
"CCCC[Sn](CCCC)(CCCC)Br.COC(=O)C1(CC[CH:10]N1C(=O)C2=CC=CC=C2)C[C:20]#[C:21][Si](C)(C)C>>CCCC[Sn](CCCC)(CCCC)Br.COC(=O)C12CC[CH:10](N1C(=O)C3=CC=CC=C3)[C:20](=[C:21][Si](C)(C)C)C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC[CH:10]C#N.[CH2:20]=[CH:21]C#N>>CC[CH:10]([CH2:20][CH:21]C#N)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C1C[C:10](C(=O)C1)CCC[CH:20]=[CH:21]SC2=CC=CC=C2>>C1CC(=O)[C:10]2(C1)CCC[CH:20]2[CH:21]SC3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"COC1=[C:10]C(CC[C:20]#[C:21]C2=CC=CC=C2)=C([O])C(OC)=C1OC>>COC3=[C:10](/[C:20](CC4)=[C:21]/C5=CC=CC=C5)C4=C([O])C(OC)=C3OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(O[CH:20]CC(N1CCCC1=O)CC2COCCO2)=O.[H:10][CH:11]3COCCO3>>CC(O[CH:20]([H:10])CC(N4CCCC4=O)CC5COCCO5)=O.C6OC[CH:11]OC6 20-20,10;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[CH2:5]1[CH2:4][CH2:3][CH2:8][CH2:7][CH2:6]1.[Cl:1][Cl:2].[Ar]>>[Ar].[CH2:5]1[CH2:4][CH2:3][CH2:8][CH2:7][CH2:6]1.[Cl:1].[Cl:2] 2,1-2;1,2-1",Heat,Initiation,homolyze
"[CH3:10].[CH3:20]>>[CH3:10][CH3:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]C1=CC=CC=C1.[Br:20]>>C1=CC=C(C=C1)[CH2:10][Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][F:21].[OH:10]>>[H:20][OH:10].[F:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)[CH:20]=[C:21](C)C.[Br:10]>>CCC(C)[CH:20]([C:21](C)C)[Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC[CH:10]C.[Br:20][Br:21]>>CCCC[CH:10](C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1C2=C(C=CC=C2)C3=CC=CC=C13.C1CC(=O)[N:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.C1=CC=C2C3=C(C=CC=C3)[CH:21]C2=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][C:3]([CH3:4])([CH3:6])[CH:2]=[CH2:1].[Cl:8]>>[H:5][Cl:8].[CH3:4][C:3]([CH3:6])[CH:2]=[CH2:1] 8-5,8;3,5-5,8;3,5-3",Room Temperature,Propagation,abstraction
"[H:6][C:5]([H:7])[C:2]([CH3:1])([CH3:3])[OH:4].[H:13][C:12]([H:14])[C:9]([CH3:8])([CH3:10])[OH:11]>>[H:6][C:5]([H:7])([C:12]([H:13])([H:14])[C:9]([CH3:8])([CH3:10])[OH:11])[C:2]([CH3:1])([CH3:3])[OH:4] 5-5,12;12-12,5",Room Temperature,Termination,recombine
